** sch_path: /foss/designs/ICONS2026/xschem/tb_boot_bottom_4.sch
**.subckt tb_boot_bottom_4
Vi2 net1 GND sin({viq} vamp fin 0)
x1 net3 VDD VSS p2 sg13g2_inv_8
x2 net2 VDD VSS p1 sg13g2_inv_8
x3 trackb net2 VDD VSS net3 sg13g2_nand2_2
x4 net3 track VDD VSS net2 sg13g2_nand2_2
x5 track VDD VSS trackb sg13g2_inv_2
Vtrk net4 GND pulse(0 vdd 0 trf trf {per/2} per 0)
Vsup vdd GND vdd
Vsup1 vss GND 0
R1 net1 vi rs m=1
Cp vc votap cl m=1
G1 vo GND votap GND 100e-3
S7 vo vc p2 GND SW1
Cp3 vo GND cl m=1
S8 votap GND track GND SW1
S10 vo GND p1 GND SW1
Cp5 votap GND 100f m=1
x6 vdd p1 p2 vc vi boot4
R2 track net4 1k m=1
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt
.inc /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.param vdd=1.2 viq=0.6 vamp=0.3
.param cl=1.3p cb=1pF w=35u ng=7
.param w4=17.5u ng4=3
.param w5=12u cw5=4.7f w6=8u
.param w3=2.5u*2 w2=5u*2 cw2=2.2f
.param ndft=31 npad=5 bin=5 fclk=500e6 runs=15
.param per=1/fclk fin=fclk*bin/ndft trf=50p
.param vh=0 rsw=10 roff=1e9 rs=10

.csparam per=per runs=runs
.csparam tstop1 = 4*per
.csparam tstop2 = per*(ndft+npad)
.option method=trap reltol=1e-5 chgtol=1e-16

.control
    tran 1n $&tstop1
    write tb_boot_bottom_4.raw
    option numdgt=9
    set wr_singlescale
    set wr_vecnames
    compose bin_vec start=1 stop=$&runs step=1
    foreach i $&bin_vec
      alterparam bin=$i
      reset
      tran 10p $&tstop2 0
      let lin-tstep = $&per
      let lin-tstart = 1.9n
      linearize
      wrdata tb_boot_bottom_4.txt v(vi) v(vo)
      destroy all
      set appendwrite
      unset wr_vecnames
    end
    unset appendwrite
.endc


**** end user architecture code
**.ends

* expanding   symbol:  boot4.sym # of pins=5
** sym_path: /foss/designs/ICONS2026/xschem/boot4.sym
** sch_path: /foss/designs/ICONS2026/xschem/boot4.sch
.subckt boot4 vdd p1 p2 vo vi
*.ipin vi
*.opin vo
*.ipin p2
*.iopin vdd
*.ipin p1
Cm1 vtop vbot cb m=1
XM1 vi vg vo GND sg13_lv_nmos w=w l=0.13u ng=ng m=1
XM8 vg vdd net1 GND sg13_lv_nmos w=w4 l=0.13u ng=ng4 m=1
XM4 net1 p2 GND GND sg13_lv_nmos w=w4 l=0.13u ng=ng4 m=1
XM6 vbot p2 GND GND sg13_lv_nmos w=w6 l=0.13u ng=1 m=1
XM5 vtop vg vdd vtop sg13_lv_pmos w=w5 l=0.13u ng=1 m=1
Cw6 vtop GND {cw5+cw2} m=1
XM3 vbot vg vi GND sg13_lv_nmos w=w3 l=0.13u ng=1 m=1
S3 vdd vg2 p2 GND SW1
XM2 vg vg2 vtop vtop sg13_lv_pmos w=w2 l=0.13u ng=1 m=1
S1 vg2 vbot p1 GND SW1
.ends

.GLOBAL GND
**** begin user architecture code
.MODEL SW1 SW
+ VT=0.6 VH=vh
+ RON=rsw ROFF=roff
**** end user architecture code
.end
